US05668154
[4-(3-Benzo[d]isoxazolylimino)-1-(4H)-pyridinyl]-acetic acid methyl ester hydrobromide.
A mixture of 3-(4-pyridinylamino)-1,2-benzisoxazole (0.9g, 4.3 mmol) and methyl bromoacetate (0.44 mL, 1.1 eq) in acetonitrile (25 mL) was heated at reflux for one hour. The mixture was then allowed to cool to room temperature and the precipitated product was collected by filtration. The white solid was washed with diethyl ether and dried under vacuum to provide the title compound (1.1 g, 70%), mp 235°-236° C.

reactant | 3-(4-pyridinylamino)-1,2-benzisoxazole | 4.3 mmol, 0.9g | N1=CC=C(C=C1)NC1=NOC2=C1C=CC=C2 | C12H9N3O
reactant | methyl bromoacetate | 0.44 mL, 1.1 eq | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | [4-(3-Benzo[d]isoxazolylimino)-1-(4H)-pyridinyl]-acetic acid methyl ester hydrobromide | 1.1 g, 70% | Br.COC(CN1C=CC(C=C1)=NC1=NOC2=C1C=CC=C2)=O | InChI=1S/C15H13N3O3.BrH/c1-20-14(19)10-18-8-6-11(7-9-18)16-15-12-4-2-3-5-13(12)21-17-15;/h2-9H,10H2,1H3;1H
